US04777252
(H) 4-Oxo-7,8-bis(phenylmethoxy)-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid
20.3 ml of 1N sodium hydroxide solution was added to a solution of 4-oxo-7,8-bis(phenylmethoxy)-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid, ethyl ester (6.61 g, 15.36 mmol) in 240 ml of water:tetrahydrofuran 1:1). After stirring overnight at 40° C., 200 ml of water was added, and the pH was adjusted to 2 with 3N hydrochloric acid. The resulting precipitate was filtered off with suction, washed with water and dried in vacuo. Yield: 5.28 g; melting point 207.8° C.

reactant | sodium hydroxide | 1N, 20.3 ml | [OH-].[Na+]
reactant | 4-oxo-7,8-bis(phenylmethoxy)-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid, ethyl ester | 15.36 mmol, 6.61 g | O=C1C(=CN=C2N1C=C(C(=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)C(=O)OCC | C25H22N2O5
reactant | water | 200 ml | O | H2O
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | water tetrahydrofuran | 240 ml | O.O1CCCC1
product | 4-Oxo-7,8-bis(phenylmethoxy)-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | O=C1C(=CN=C2N1C=C(C(=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)C(=O)O | C23H18N2O5
